data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-c1ccc(C(F)(F)F)cc1_2-c1ccc2ccccc2c1_3-C(C)(C)C_4-c1ccc(OC)cc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)c1ccc2ccccc2c1","[C-]#[N+]C(C)(C)C","O=C(O)c1ccc(OC)cc1"],"products_smiles": ["O=C(c1ccc(OC)cc1)OC(C(=O)NC(C)(C)C)(c1ccc(C(F)(F)F)cc1)c1ccc2ccccc2c1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)C(#[N+]C(C)(C)C)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(OC)cc1)OC(=[N]C(C)(C)C)C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccc(OC)cc1)OC(=[N]C(C)(C)C)C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(OC)cc1)OC(C(=O)NC(C)(C)C)(c1ccc(C(F)(F)F)cc1)c1ccc2ccccc2c1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-228_1-c1ccc(OC)cc1_2-CC_3-Br_4-c1ccccc1_5-C(C)C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(c1ccc(OC)cc1)=C(CC)(Br)","c1ccccc1C(=O)OC(C)C"],"products_smiles": ["C(c1ccc(OC)cc1)1OC1(CC)Br"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)1OC1(CC)Br","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NR-206_1-c1occc1","level": "medium","name": "Norrish Reaction","reactants_smiles": ["O=C(C)Cc1occc1"],"products_smiles": ["c1occc1CC=C"],"conditions": "hv","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[CH3]C=O.[CH2]C(c1occc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a singlet or triplet state, weakening the α C–C bond via n→π* excitation, enabling homolytic cleavage to yield stabilized acyl and alkyl radicals."},{"step": 2,"type": "radical","subtype": "radical_termination","intermediate_smiles": "c1occc1C=C","step_weight": 0,"rationale": "The alkyl radical undergoes β-scission or recombination, forming a C=C bond; radical termination is favored due to the stability of the conjugated alkene and the absence of further radical sources."}],"description": "Under UV irradiation, the carbonyl absorbs light and undergoes α-cleavage (Norrish Type I), generating radical fragments. These radicals then recombine or rearrange to form the alkene product, driven by radical stability and relief of electronic strain."}
